US09260425B2
In a high-pressure vial was placed 3-(6-chloropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine ((84.1 mg, 0.21 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (197.5 mg, 0.64 mmol), cesium carbonate (346.979 mg, 1.06494 mmol;), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloro-methane (1:1) (17.4 mg, 0.021 mmol), and N,N-Dimethylformamide (2.5 mL). Nitrogen was passed through the mixture for 15 minutes and the vessel was sealed. The reaction mixture was stirred at 90° C. under N2 for 4 days, cooled to RT, and diluted with EtOAc. The reaction mixture was filtered through a pad of Celite®. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and evaporated in vacuo. The crude product was purified using both flash chromatography (Si-PPC gradient elution, solvent: 0-20% methanol in ethyl acetate) and reverse phase HPLC purification to give tert-butyl 4-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate as an oil (40.4 mg, 35.0%). 1H NMR (400 MHz, CDCl3) δ 9.12 (s, 1H), 8.72 (s, 1H), 8.08 (d, J=7.8 Hz, 1H), 7.98 (s, 1H), 7.93 (s, 1H), 7.75 (t, J=7.8 Hz, 1H), 7.39 (d, J=7.7 Hz, 1H), 6.79 (s, 1H), 5.87 (dd, J=8.5, 2.0 Hz, 1H), 4.23 (d, J=2.6 Hz, 2H), 4.07-3.96 (m, 1H), 3.98 (s, 3H), 3.85-3.72 (m, 3H), 2.87 (s, 2H), 2.66-2.52 (m, 1H), 2.17 (d, J=9.2 Hz, 2H), 1.90-1.67 (m, 3H), 1.52 (s, 9H). LC/MS: m/z 542.4 [M+1].

reactant | 3-(6-chloropyridin-2-yl)-5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | ClC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)C)C2OCCCC2 | C20H19ClN6O
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.64 mmol, 197.5 mg | CC1(OB(OC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | cesium carbonate | 1.06494 mmol, 346.979 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloro-methane | 0.021 mmol, 17.4 mg | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | N,N-Dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(6-(5-(1-methyl-1H-pyrazol-4-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 40.4 mg, 35.0% | CN1N=CC(=C1)C=1C=C2C(=CN1)N(N=C2C2=CC=CC(=N2)C2=CCN(CC2)C(=O)OC(C)(C)C)C2OCCCC2 | C30H35N7O3
